US06051712
A solution of 106 mg (0.174 mmol) of tert-butyl (3RS,4RS)-4-[4-[3-(N'-benzoyl-hydrazino)-3-oxo-propyl]-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate in 1.5 ml of hexamethyidisilazane was treated with 39 μl (0.039 mmol) of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran and heated to reflux for 20 hours. For the working-up, the reaction mixture was treated with 50 ml of a 1:1 mixture of methylene chloride and water, the organic phase was subsequently separated and the aqueous phase was back-extracted twice with 25 ml of methylene chloride each time. The combined organic phases were dried over sodium sulphate and evaporated under reduced pressure. The crude product was purified by flash chromatography on silica gel with a 7:3 mixture of hexane and ethyl acetate as the eluent. There were obtained 70 mg (68% of theory) of tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-[2-(5-phenyl-[1,3,4]oxadiazol-2-yl)-ethyl]-phenyl]-piperidine-1-carboxylate as a colourless solid; MS: 590 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-[3-(N'-benzoyl-hydrazino)-3-oxo-propyl]-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 0.174 mmol, 106 mg | C(C1=CC=CC=C1)(=O)NNC(CCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1)=O | C37H41N3O5
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
solvent | hexamethyidisilazane | 1.5 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-[2-(5-phenyl-[1,3,4]oxadiazol-2-yl)-ethyl]-phenyl]-piperidine-1-carboxylate | 70 mg, 68% | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)CCC=1OC(=NN1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C37H39N3O4
